US08980938B2
80 mg 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-pro-pionic acid methyl ester, 224 mg cesium carbonate, 61 mg of (2-bromoethyl)-benzene and 4 mg sodium iodide were dissolved in 5 ml of N,N-dimethylformamide and stirred at 80° C. for 6 h. 10 ml of diethyl ether and 10 ml of water were added to the reaction. The organic layer was separated and washed again with 10 ml of water. It was then dried over magnesium sulphate, filtered and concentrated in vacuo. Purification by flash chromatography (silica, heptanes/ethyl acetate) afforded 69 mg of 2-methyl-2-[(1-phenethyloxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester.

reactant | 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-pro-pionic acid methyl ester | 80 mg | COC(C(C)(C)NC(=O)C1=C(C=2CCCCC2C=C1)O)=O | C16H21NO4
reactant | cesium carbonate | 224 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-bromoethyl)-benzene | 61 mg | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium iodide | 4 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-methyl-2-[(1-phenethyloxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester | 69 mg | COC(C(C)(NC(=O)C1=C(C=2CCCCC2C=C1)OCCC1=CC=CC=C1)C)=O | C24H29NO4
